US08957102B2
(Step 7) 4-(t-butyldimethylsilyloxy)pyrrolo[1,2-b]pyridazine
Pyrrolo[1,2-b]pyridazin-4(1H)-one (2.0 g, 14.9 mmol) and t-butyldimethylsilyl chloride (2.7 g, 17.9 mmol) were dissolved in anhydrous toluene under nitrogen atmosphere. After adding triethylamine (3.1 mL, 22.4 mmol), the mixture was stirred for 1 hour under reflux. Upon completion of the reaction, the produced solid was filtered and washed with a small volume of toluene. The filtrate was concentrated by distillation under reduced pressure. The resulting residue was subjected to the next step without further purification.

reactant | Pyrrolo[1,2-b]pyridazin-4(1H)-one | 14.9 mmol, 2.0 g | N1N2C(C(C=C1)=O)=CC=C2 | C7H6N2O
reactant | t-butyldimethylsilyl chloride | 17.9 mmol, 2.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 22.4 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(t-butyldimethylsilyloxy)pyrrolo[1,2-b]pyridazine | [Si](C)(C)(C(C)(C)C)OC=1C=2N(N=CC1)C=CC2 | C13H20N2OSi
